US04420615
1-(2-Dimethylaminoethyl)-5,7-dimethyl-1,2-dihydropyrido[2,3-d]pyrimidin-2-one
A solution of 1-(2-dimethylaminoethyl)-5,7-dimethyl-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-2-one (5.0 g, 20 mmol) in chloroform (150 ml) containing activated manganese dioxide (15 g) is refluxed for 15 hours. The reaction mixture is filtered hot and the collected manganese dioxide re-extracted with hot chloroform. The combined organic extracts are evaporated and the residue crystallized from cyclohexane to yield 2.4 g of pure title product; m.p.: 137°-139° C.

reactant | 1-(2-dimethylaminoethyl)-5,7-dimethyl-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-2-one | 20 mmol, 5.0 g | CN(CCN1C(NCC2=C1N=C(C=C2C)C)=O)C | C13H20N4O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 15 g | [O-2].[O-2].[Mn+4]
product | 1-(2-Dimethylaminoethyl)-5,7-dimethyl-1,2-dihydropyrido[2,3-d]pyrimidin-2-one | 2.4 g | CN(CCN1C(N=CC2=C1N=C(C=C2C)C)=O)C | C13H18N4O
